US07300935B2
The similar reaction as described in Example 5 by using 4-(N-benzyl-N-methylaminoethyl)-2-(N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino)-5-(4-(3-methoxyureido)phenyl)thiophene-3-carboxylic acid (10.0 g, 15.65 mmol) and 2-amino-5-fluoropyridine (3.51 g, 31.30 mmol) gave N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(5-fluoropyridin-2-yl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea (3.39 g, 32%) as white solids. The similar reaction as described in Reference Example 18 by using the compound (1.0 g, 1.46 mmol) gave the title compound (560 mg, 64%) as white solids.

reactant | 4-(N-benzyl-N-methylaminoethyl)-2-(N-(2,6-difluorobenzyl)-N-ethoxycarbonylamino)-5-(4-(3-methoxyureido)phenyl)thiophene-3-carboxylic acid | 15.65 mmol, 10.0 g | C(C1=CC=CC=C1)N(C)CCC=1C(=C(SC1C1=CC=C(C=C1)NC(=O)NOC)N(C(=O)OCC)CC1=C(C=CC=C1F)F)C(=O)O | C33H34F2N4O6S
reactant | 2-amino-5-fluoropyridine | 31.30 mmol, 3.51 g | NC1=NC=C(C=C1)F | C5H5FN2
product | N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(5-fluoropyridin-2-yl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | 3.39 g, 32% | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C(N(C(C21)=O)C2=NC=C(C=C2)F)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C35H29F3N6O4S
